US07384934B2
6-Fluoro-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride
Suspend 2-(5-fluoro-2-nitro-phenylamino)-thiophene-3-carbonitrile (3.89 g, 14.78 mmol) in ethanol (40.0 ml). Dissolve tin(II) chloride dihydrate (10.00 g, 44.33 mmol) in 5N HCl (40.0 ml) and then add it to the suspension. Heat the reaction at reflux for 2.5 hours and then cool it to ambient temperature. Collect the resulting precipitate by vacuum filtration and then dry it under vacuum to give 3.32 g (83%) of the title compound: mass spectrum (ion spray): m/z=234.1 (M+1).

reactant | 2-(5-fluoro-2-nitro-phenylamino)-thiophene-3-carbonitrile | 14.78 mmol, 3.89 g | FC=1C=CC(=C(C1)NC=1SC=CC1C#N)[N+](=O)[O-] | C11H6FN3O2S
reactant | tin(II) chloride dihydrate | 44.33 mmol, 10.00 g | O.O.[Sn](Cl)Cl
solvent | ethanol | 40.0 ml | C(C)O | C2H6O
solvent | HCl | 5N, 40.0 ml | Cl | ClH
product | 6-Fluoro-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride | 3.32 g, 83% | Cl.FC=1C=CC2=C(NC=3SC=CC3C(=N2)N)C1 | InChI=1S/C11H8FN3S.ClH/c12-6-1-2-8-9(5-6)15-11-7(3-4-16-11)10(13)14-8;/h1-5,15H,(H2,13,14);1H
